US07635746B2
14.5 g of 2,4-dinitrophenoxy-6-hexadecyl-1,3,5-triazine prepared in Preparative Example 2 was dissolved in 300 ml of tetrahydrofuran, and then 1.4 g of Pd/C was added thereto. Hydrogen gas at 50 psi was fed to the mixture, and then reacted at 60° C. for 12 hours. After the reaction, the reaction mixture was filtered to remove palladium, and evaporated under reduced pressure to obtain a crude product. The crude product was recrystallized to afford pure 2,4-diaminophenoxy-6-hexadecyl-1,3,5-triazine as a white solid. The final product was relatively stable under ambient conditions. The structure of the final product was identified through 1H-NMR spectrum, and the differential scanning calorimetry (DSC) was performed (see, FIGS. 1 and 2).

reactant | 2,4-dinitrophenoxy-6-hexadecyl-1,3,5-triazine | 14.5 g | [N+](=O)([O-])C1=C(OC2=NC(=NC=N2)CCCCCCCCCCCCCCCC)C=CC(=C1)[N+](=O)[O-] | C25H37N5O5
reactant | Hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 1.4 g | [Pd] | Pd
product | 2,4-diaminophenoxy-6-hexadecyl-1,3,5-triazine | NC1=C(OC2=NC(=NC=N2)CCCCCCCCCCCCCCCC)C=CC(=C1)N | C25H41N5O
